US05807859
To a suspension of 2.2 g of 5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one in 45 ml of anhydrous dimethyl sulphoxide, maintained under a nitrogen atmosphere and at a temperature in the region of 20° C., are added 2 g of 3-bromobenzaldehyde followed, over 5 minutes, by 0.72 g of 80% sodium hydride. The mixture is stirred for 15 hours at the same temperature, followed by slow addition of 45 ml of distilled water and 12 ml of acetic acid. The insoluble product formed is isolated by filtration, washed with distilled water and air-dried. The product obtained (3.1 g) is chromatographed on neutral silica gel, eluting with a dichloromethane/methanol mixture (90/10 by volume). The fractions containing the expected product are concentrated to dryness and the product obtained (1.9 g) is dissolved in a boiling mixture of 40 ml of acetic acid and 50 ml of dimethylformamide and, after cooling and storing for 15 hours at a temperature in the region of 5° C., the insoluble product formed is isolated by filtration, washed twice with 10 ml in total of acetic acid and twice with 10 ml in total of isopropyl ether and then dried under reduced pressure (1 mmHg; 0.13 kPa) at 80° C. 0.65 g of 10-(3-bromo-benzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained, melting at 340° C. (decomposition) (Analysis, % calculated C: 61.56, H: 3.10, Br: 20.48, N: 10.77, O: 4.10, % found C: 61.4, H: 3.2, N: 11.0).

reactant | 5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 2.2 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | 3-bromobenzaldehyde | 2 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | water | 45 ml | O | H2O
solvent | dimethyl sulphoxide | 45 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 10-(3-bromo-benzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.65 g | BrC=1C=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC1 | C20H12BrN3O
